US20010044436A1
A mixture of tert-butyl 4-chloro-2-methylthio-5,6,7,8-tetrahydropyridino[4,3-d]pyrimidine-6-carboxylate (100 mg, 0.317 mmol), 2,4-dichloroaniline (56 mg, 0.348 mmol) and sodium bis(trimethylsilyl)amide (1.0 M solution in THF, 412 □1, 0.412 mmol) in tetrahydrofuran (2 ml) was heated at reflux over night. The mixture was partitioned between ethyl acetate and water. Organic layer was separated and washed with brine, dried (MgSO4) and filtered. Concentration of filtrate afforded crude product, which was purified by flash chromatography (0.5% methanol in dichloromethane as eluent) to give tert-butyl 4-[(2,4-dichlorophenyl)amino]-2-methylthio-5,6,7,8-tetrahydropyridino[4,3-d]pyrimidine-6-carboxylate as a light yellow oil (85 mg, yield 61%).

reactant | tert-butyl 4-chloro-2-methylthio-5,6,7,8-tetrahydropyridino[4,3-d]pyrimidine-6-carboxylate | 0.317 mmol, 100 mg | ClC=1C2=C(N=C(N1)SC)CCN(C2)C(=O)OC(C)(C)C | C13H18ClN3O2S
reactant | 2,4-dichloroaniline | 0.348 mmol, 56 mg | ClC1=C(N)C=CC(=C1)Cl | C6H5Cl2N
reactant | sodium bis(trimethylsilyl)amide | 0.412 mmol, 1.0 M | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | tert-butyl 4-[(2,4-dichlorophenyl)amino]-2-methylthio-5,6,7,8-tetrahydropyridino[4,3-d]pyrimidine-6-carboxylate | 85 mg, yield 61% | ClC1=C(C=CC(=C1)Cl)NC=1C2=C(N=C(N1)SC)CCN(C2)C(=O)OC(C)(C)C | C19H22Cl2N4O2S
